US07557114B2
(a) 5-Cyclopropyl-6-morpholin-4-yl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester
Prepared in analogy to Example A54(a) from 5-chloro-6-morpholin-4-yl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester (Example A44(a)) and tributylcyclopropylstannane. Yellow solid. MS (m/e): 345.4 ([M+H]+, 100%).

reactant | 5-chloro-6-morpholin-4-yl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC(=C(C=C2C1)Cl)N1CCOCC1 | C17H23ClN2O3
reactant | tributylcyclopropylstannane | C(CCC)[Sn](C1CC1)(CCCC)CCCC
product | 5-Cyclopropyl-6-morpholin-4-yl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC(=C(C=C2C1)C1CC1)N1CCOCC1 | C20H28N2O3
